US08563565B2
(2) Synthesis of 3-chloro-2-methoxy-4,6-dimethylpyridine
3-bromo-5-chloro-6-methoxy-2,4-dimethylpyridine (930 mg) was added to THF (10 mL). The solution was cooled to −78° C., and n-butyllithium (2.6 M solution in n-hexane, 1.428 mL) was added, followed by stirring at the same temperature for one hour. A saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with DCM. The organic layer was washed with brine and dried over sodium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 5% to 30%) to give the title compound (300 mg).

reactant | 3-bromo-5-chloro-6-methoxy-2,4-dimethylpyridine | 930 mg | BrC=1C(=NC(=C(C1C)Cl)OC)C | C8H9BrClNO
reactant | n-butyllithium | 2.6 M, 1.428 mL | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-chloro-2-methoxy-4,6-dimethylpyridine | 300 mg | ClC=1C(=NC(=CC1C)C)OC | C8H10ClNO
